US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-yl)-amide
Using 4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-ylamine and 5-methyl-thiophene-2-carboxylic acid chloride in pyridine the title compound was obtained as a yellow solid (53% yield), MS: m/e=404.4 (M+H+).

reactant | 4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)CN2CCOCC2 | C13H17N3O2S
reactant | 5-methyl-thiophene-2-carboxylic acid chloride | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)CN2CCOCC2 | C19H21N3O3S2
